US08669246B2
N-[(3-{[tert-Butyl (dimethyl)silyl]oxy}pyrrolidin-1-yl)sulfonyl]-2-{[(3,5-dimethoxy-4-methylbenzoyl)(3-phenylpropyl)amino]methyl}-1,3-thiazole-4-carboxamide (580 mg) was added to THF (10 mL), and subsequently, a 1 M TBAF/THF solution (2.02 mL) was added dropwise thereto, followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the obtained residue was neutralized by the addition of an appropriate amount of 1 M hydrochloric acid, and then extracted with CHCl3 several times. The organic layer was washed with brine and dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3:MeOH=20:1) to obtain 2-{[(3,5-dimethoxy-4-methylbenzoyl)(3-phenylpropyl)amino]methyl}-N-[(3-hydroxypyrrolidin-1-yl)sulfonyl]-1,3-thiazole-4-carboxamide (383 mg) as a white solid.

reactant | N-[(3-{[tert-Butyl (dimethyl)silyl]oxy}pyrrolidin-1-yl)sulfonyl]-2-{[(3,5-dimethoxy-4-methylbenzoyl)(3-phenylpropyl)amino]methyl}-1,3-thiazole-4-carboxamide | 580 mg | C(C)(C)(C)[Si](OC1CN(CC1)S(=O)(=O)NC(=O)C=1N=C(SC1)CN(CCCC1=CC=CC=C1)C(C1=CC(=C(C(=C1)OC)C)OC)=O)(C)C | C34H48N4O7S2Si
reactant | TBAF THF | 1 M, 2.02 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-{[(3,5-dimethoxy-4-methylbenzoyl)(3-phenylpropyl)amino]methyl}-N-[(3-hydroxypyrrolidin-1-yl)sulfonyl]-1,3-thiazole-4-carboxamide | 383 mg | COC=1C=C(C(=O)N(CCCC2=CC=CC=C2)CC=2SC=C(N2)C(=O)NS(=O)(=O)N2CC(CC2)O)C=C(C1C)OC | C28H34N4O7S2
